US09227955B2
Preparation of 4-Amino-1-(2-hydroxyethyl) piperidine
A solution of 0.5 g of tert-butyl 4-piperidinylcarbamate, 0.21 ml of 2-bromoethanol and 2.76 g of K2CO3 in 10 ml of acetonitrile was stirred for 5 hrs under reflux. The reaction mixture was cooled to a room temperature, filtered to remove solids, and concentrated. The concentrate was purified by silica gel column chromatography (mobile phase: 20 (v/v) % EA in hexane) to afford 0.58 g of the title compound (Yield: 94%). 1H NMR (CDCl3) δ 4.76 (d, 1H), 3.65 (t, 2H), 3.48 (m, 1H), 2.92 (m, 2H), 2.59 (t, 2H), 2.26 (m, 2H), 1.94 (m, 2H), 1.52 (m, 2H), 1.44 (s, 9H) ppm.

reactant | tert-butyl 4-piperidinylcarbamate | 0.5 g | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | 2-bromoethanol | 0.21 ml | BrCCO | C2H5BrO
reactant | K2CO3 | 2.76 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 4-Amino-1-(2-hydroxyethyl) piperidine | 0.58 g, Yield: 94% | NC1CCN(CC1)CCO | C7H16N2O
